US09447097B2
h) 2-(Ethoxymethyl)-1-(2-hydroxy-2-methylpropyl)-4-(tritylamino)-1H-imidazo[4,5-c]quinoline-7-carbaldehyde
To a solution of 2-(ethoxymethyl)-1-(2-hydroxy-2-methylpropyl)-N-methoxy-N-methyl-4-(tritylamino)-1H-imidazo[4,5-c]quinoline-7-carboxamide (520 mg, 808 μmol) in THF (7 mL) in an inert atmosphere was added with stirring at 0° C. a solution of lithium aluminum hydride in THF (1 M, 404 μl, 404 μmol). The mixture was stirred 1 h at 0° C., saturated ammonium chloride solution (10 mL) was added slowly and finally water (20 mL) and ethyl acetate (30 mL) were added. The phases were separated, the water layer was extracted with ethyl acetate (30 mL), and the organic phases were washed with water (20 mL), combined, dried with MgSO4, and concentrated in vacuo to give the title compound (0.49 g, quant.) as white foam (LC-MS (UV peak area, ESI) 83%, 585.4 (MH+)) that was used in the next step without further purification.

reactant | 2-(ethoxymethyl)-1-(2-hydroxy-2-methylpropyl)-N-methoxy-N-methyl-4-(tritylamino)-1H-imidazo[4,5-c]quinoline-7-carboxamide | 808 μmol, 520 mg | C(C)OCC=1N(C2=C(C(=NC=3C=C(C=CC23)C(=O)N(C)OC)NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)N1)CC(C)(C)O | C39H41N5O4
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ammonium chloride | 10 mL | [Cl-].[NH4+]
reactant | water | 20 mL | O | H2O
solvent | THF | 7 mL | C1CCOC1 | C4H8O
solvent | THF | 404 μmol, 1 M, 404 μl | C1CCOC1 | C4H8O
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | 2-(Ethoxymethyl)-1-(2-hydroxy-2-methylpropyl)-4-(tritylamino)-1H-imidazo[4,5-c]quinoline-7-carbaldehyde | 0.49 g | C(C)OCC=1N(C2=C(C(=NC=3C=C(C=CC23)C=O)NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)N1)CC(C)(C)O | C37H36N4O3
